US06018020
10 ml (10 mmol) of 1M lithium aluminium hydride in tetrahydrofuran were added to a solution of 3.15 g (12.3 mmol) of N,O-dimethyl 2(S)-(tert-butoxyformamido)-4-pentynohydroxamate in 50 ml of dry tetrahydrofuran at 0° C. under a nitrogen atmosphere. The solution was stirred for 20 minutes and then 40 ml of saturated potassium hydrogen sulphate solution were added dropwise. The mixture was stirred for 15 minutes and then diluted with diethyl ether. The organic layer was dried over magnesium sulphate and evaporated to give an oil which was dissolved in 50 ml of methanolic hydrogen chloride solution. The solution was left at room temperature for 1 hour and then evaporated to dryness to give a dark brown gum. 1.05 g of the gum were added to a solution of 2.06 g (5.84 mmol) of N-[(9-fluorenyl)methoxycarbonyl]-L-leucine, 867 mg (6.42 mmol) of hydroxybenzotriazole, 1.233 g (6.42 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 2.216 g (19.27 mmol) of N-ethylmorpholine in 40 ml of dichloromethane. The solution was stirred at room temperature for 18 hours, washed with 2M hydrochloric acid and saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated to give a gum which was chromatographed on silica gel using ethyl acetate/petrol (2:3) for the elution. There were obtained 1.1 g of N2-[(9-fluorenyl)methoxycarbonyl]-N1-[1(S)-(dimethoxymethyl)-3-butynyl]-L-leucinamide as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ: 0.86 (6H,dd), 1.35-1.65 (3H,m), 2.22-2.39 (2H,m), 2.75(1H,t), 3.22 (3H,s), 3.27 (3H,s), 3.91 (1H,m), 4.08 (1H,m), 4.15-4.3 (4H,m), 7.29 (2H,m), 7.4 (2H,t), 7.42 (1H,d), 7.71 (2H,d), 7.84 (1H,d), 7.88 (2H,d).

reactant | lithium aluminium hydride | 10 mmol, 1M, 10 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium hydrogen sulphate | 40 ml | S(=O)(=O)(O)[O-].[K+]
reactant | N-[(9-fluorenyl)methoxycarbonyl]-L-leucine | 5.84 mmol, 2.06 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C)C)C(=O)O | C21H23NO4
reactant | hydroxybenzotriazole | 6.42 mmol, 867 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.42 mmol, 1.233 g | Cl.CN(CCCN=C=NCC)C
reactant | N-ethylmorpholine | 19.27 mmol, 2.216 g | C(C)N1CCOCC1 | C6H13NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hydrogen chloride | 50 ml | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N2-[(9-fluorenyl)methoxycarbonyl]-N1-[1(S)-(dimethoxymethyl)-3-butynyl]-L-leucinamide | 1.1 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC#C)C(OC)OC | C28H34N2O5
